US05665754
To a solution of N-methoxymethyl-N-(phenylmethyl)trimethylsilylmethylamine (2.84 g, 12 mmol) and (E)-methyl 3-(3-cyclopentoxy-4-methoxyphenyl)prop-2-enoate (2.76 g, 10 mmol) in 20 mL of CH2Cl2 cooled to 0° C. was added a 1 mL of a 1M solution of trifluoroacetic acid. Stirring was continued for 12 hr, and the solution was partitioned between ether and sat. NaHCO3. The layers were separated and the aqueous layer was extracted ethyl acetate (2×). The combined organic layers were dried (K2CO3), filtered, and concentrated under reduced pressure to a pale yellow oil. Chromatography on silica gel (3:1, hexanes:ethyl acetate) provided trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine (3.5 g, 86%) as a colorless oil. 1H-NMR (300 MHz): δ 2.74-3.09 (m, 5), 3.67 (s, 3), 3.81 (s, 3), 4.75 (m, 1).

reactant | N-methoxymethyl-N-(phenylmethyl)trimethylsilylmethylamine | 12 mmol, 2.84 g | COCN(CC1=CC=CC=C1)C[Si](C)(C)C | C13H23NOSi
reactant | (E)-methyl 3-(3-cyclopentoxy-4-methoxyphenyl)prop-2-enoate | 10 mmol, 2.76 g | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C(=O)OC | C16H20O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methoxycarbonyl-1-(phenylmethyl)pyrrolidine | 3.5 g, 86% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)OC)CC1=CC=CC=C1 | C25H31NO4
